** sch_path: /foss/designs/PhaseInterpolator/2to4/2to4.sch
**.subckt 2to4 VDD VINI VCONT VINIB VSS VQ VIB VQB VI
*.ipin VCONT
*.ipin VINI
*.opin VIB
*.opin VQ
*.ipin VINIB
*.opin VI
*.opin VQB
*.iopin VDD
*.iopin VSS
x1 VDD VQB VQ VCONT net5 net3 VSS dcvsl_variable
x2 VDD VIB net1 VSS buff_PI_d16
x3 VDD VI net2 VSS buff_PI_d16
x4 VDD net1 VINI VSS inv_PI
x5 VDD net2 VINIB VSS inv_PI
x6 VDD net3 net4 VSS buff_PI_d16
x7 VDD net4 VINIB VSS inv_PI
x8 VDD net5 net6 VSS buff_PI_d16
x9 VDD net6 VINI VSS inv_PI
**.ends

* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/dcvsl_variable.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/2to4/dcvsl_variable.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/dcvsl_variable.sch
.subckt dcvsl_variable VDD VOUTN VOUTP CTRL CLKN CLKP VSS
*.opin VOUTP
*.opin VOUTN
*.iopin VDD
*.ipin CLKN
*.ipin CLKP
*.ipin CTRL
*.iopin VSS
x2 VDD VOUTP VOUTDP VSS buff_PI_d16
x3 VDD VOUTN VOUTDN VSS buff_PI_d16
x1 CTRL VOUTDN VOUTDP VDD 2to4_decap
x4 VDD VOUTDN VOUTDP CTRL CLKN CLKP VSS 2to4_psdiff
.ends


* expanding   symbol:  buff_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_PI_d16.sch
.subckt buff_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_PI_d2
x8 VDD net2 net1 VSS inv_PI_d4
x9 VDD net3 net2 VSS inv_PI_d8
x10 VDD VOUT net3 VSS inv_PI_d16
.ends


* expanding   symbol:  inv_PI.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/2to4_decap.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/2to4/2to4_decap.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/2to4_decap.sch
.subckt 2to4_decap CTRL VOUTDN VOUTDP VDD
*.ipin CTRL
*.ipin VDD
*.ipin VOUTDN
*.ipin VOUTDP
XM10 CTRL VOUTDP CTRL VDD sg13_lv_pmos w=1u l=0.13u ng=1 m=36
XM9 CTRL VOUTDN CTRL VDD sg13_lv_pmos w=1u l=0.13u ng=1 m=36
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/2to4/2to4_psdiff.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/2to4/2to4_psdiff.sym
** sch_path: /foss/designs/PhaseInterpolator/2to4/2to4_psdiff.sch
.subckt 2to4_psdiff VDD VOUTDN VOUTDP CTRL CLKN CLKP VSS
*.iopin VSS
*.ipin CLKP
*.ipin CLKN
*.iopin VDD
*.ipin CTRL
*.opin VOUTDN
*.opin VOUTDP
XM1 VOUTDN CLKP VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=33
XM2 VOUTDP CLKN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=33
XM3 net1 CTRL VOUTDN VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM4 net2 CTRL VOUTDP VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=2
XM6 VOUTDP net1 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=10
XM5 VOUTDN net2 VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=10
XM7 VOUTDN VSS VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=20
XM8 VOUTDP VSS VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=20
.ends


* expanding   symbol:  inv_PI_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d2.sch
.subckt inv_PI_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI
x1[0] VDD VOUT VIN VSS inv_PI
.ends


* expanding   symbol:  inv_PI_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d4.sch
.subckt inv_PI_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d2
x1[0] VDD VOUT VIN VSS inv_PI_d2
.ends


* expanding   symbol:  inv_PI_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d8.sch
.subckt inv_PI_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d4
x1[0] VDD VOUT VIN VSS inv_PI_d4
.ends


* expanding   symbol:  inv_PI_d16.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI_d16.sch
.subckt inv_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d8
x1[0] VDD VOUT VIN VSS inv_PI_d8
.ends

.end
